US07915424B2
N-(5-Bromo-2-fluorobenzyl)acetamide
Add acetyl chloride (0.18 mL, 2.49 mmol) to a mixture of 5-bromo-2-fluorobenzylamine hydrochloride (500 mg, 2.08 mmol) in dichloromethane (8 mL) and diisopropylethylamine (0.90 mL, 5.20 mmol) and stir 3 h. Dilute with diethyl ether and separate the layers. Wash the organic layer twice with 1 N hydrochloric acid and once with an aqueous saturated solution of sodium chloride. Dry (sodium sulfate), filter, and concentrate to give the title compound as a white crystalline solid (490 mg, 96%).

reactant | acetyl chloride | 2.49 mmol, 0.18 mL | C(C)(=O)Cl | C2H3ClO
reactant | 5-bromo-2-fluorobenzylamine hydrochloride | 2.08 mmol, 500 mg | Cl.BrC=1C=CC(=C(CN)C1)F
reactant | diisopropylethylamine | 5.20 mmol, 0.90 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(5-Bromo-2-fluorobenzyl)acetamide | 490 mg, 96% | BrC=1C=CC(=C(CNC(C)=O)C1)F | C9H9BrFNO
